US09334290B2
A solution of ethyl 2-(3-chloropyridin-2-yl)acetate (7.59 g, 38 mmol) in THF (76 mL) was treated at room temperature with 3 M aqueous NaOH (25.3 mL, 76 mmol). The mixture was stirred at room temperature overnight and concentrated to remove the THF. The aqueous residue was frozen on dry ice and lyophilized to give sodium 2-(3-chloropyridin-2-yl)acetate as an off-white solid, used without further purification. Mass spectrum m/z 172 (M+H)+.

reactant | ethyl 2-(3-chloropyridin-2-yl)acetate | 38 mmol, 7.59 g | ClC=1C(=NC=CC1)CC(=O)OCC | C9H10ClNO2
reactant | NaOH | 76 mmol, 3 M, 25.3 mL | [OH-].[Na+]
solvent | THF | 76 mL | C1CCOC1 | C4H8O
product | sodium 2-(3-chloropyridin-2-yl)acetate | ClC=1C(=NC=CC1)CC(=O)[O-].[Na+] | InChI=1S/C7H6ClNO2.Na/c8-5-2-1-3-9-6(5)4-7(10)11;/h1-3H,4H2,(H,10,11);/q;+1/p-1
